US04152426
A mixture of 45 g (0.5 mol) of N-methylthiourea, 54 g (1 mol) of sodium methylate, 200 ml of methanol and 80 g (0.5 mol) of malonic acid diethyl ester was boiled for 3 hours under reflux. 71 g (0.5 mol) of methyl iodide were then added dropwise at about 50° C. and the mixture was stirred for a further 0.5 hour at 50° C. The salt which crystallized out was filtered off and was then dissolved in 400 ml of water. The solution was neutralized by adding glacial acetic acid, the precipitate was then filtered off, and 80 g (93% of theory) of 1,6-dihydro-4-hydroxy-1-methyl-2-methylthio-6-oxo-pyrimidine were thus obtained in the form of a colorless powder of melting point 198° C.

reactant | N-methylthiourea | 0.5 mol, 45 g | CNC(=S)N | C2H6N2S
reactant | sodium methylate | 1 mol, 54 g | C[O-].[Na+]
reactant | malonic acid diethyl ester | 0.5 mol, 80 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | methyl iodide | 0.5 mol, 71 g | CI | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 1,6-dihydro-4-hydroxy-1-methyl-2-methylthio-6-oxo-pyrimidine | 80 g, 93% | OC=1N=C(N(C(C1)=O)C)SC | C6H8N2O2S
